US08871782B2
A solution of 2-methyl-1-(2-methylpropyl)-7-(2-piperidin-4-ylethoxy)-1H-imidazo[4,5-c]quinolin-4-amine (0.300 g, 0.786 mmol) in chloroform was cooled to 0° C. Cyclohexyl isocyanate (0.100 mL, 0.783 mmol) was added dropwise, and the reaction was stirred for 30 minutes. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluting with dichloromethane:methanol ranging in ratios from 99:1 to 95:5). The resulting product was recrystallized from ethanol to provide 0.130 g of 4-(2-{[4-amino-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)-N-cyclohexylpiperidine-1-carboxamide as a white powder, mp 213.7-215.7° C.

reactant | 2-methyl-1-(2-methylpropyl)-7-(2-piperidin-4-ylethoxy)-1H-imidazo[4,5-c]quinolin-4-amine | 0.786 mmol, 0.300 g | CC=1N(C2=C(C(=NC=3C=C(C=CC23)OCCC2CCNCC2)N)N1)CC(C)C | C22H31N5O
reactant | Cyclohexyl isocyanate | 0.783 mmol, 0.100 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-{[4-amino-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethyl)-N-cyclohexylpiperidine-1-carboxamide | 0.130 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)C)OCCC2CCN(CC2)C(=O)NC2CCCCC2 | C29H42N6O2
